US06130237
Alternatively, a mixture of 1-methyl-4-nitro-2-pyrrolecarboxaldehyde (0.20 g, 1.30 mmol), malonic acid (0.68 g, 6.5 mmol), piperidine (2 drops), and pyridine (2 mL) was stirred at room temperature at for 20 h and at 100° C. for 4 h, then 30% aqueous H2SO4 (10 mL) was added. The precipitate that formed was removed by filtration and washed with water to give (E)-1-methyl-4-nitro-2-pyrroleacrylic acid as fine yellow needles (0.23 g, 92%). 1H NMR [(CD3)2SO] δ 12.35 (br s, 1 H, CO2H), 8.13 (d, J=1.9 Hz, 1 H, H-5), 7.44 (d, J=15.9 Hz, 1 H, H-β), 7.41 (d, J=1.9 Hz, 1 H, H-3), 6.46 (d, J=15.9 Hz, 1 H, H-α), 3.79 (s, 3 H, NCH3); 13C NMR δ 167.4 (CO2H), 135.3, 129.9 (C-2,4), 130.6, 127.0, 118.6, 105.8 (C-3,5,α,β), 34.8 (NCH3).

reactant | 1-methyl-4-nitro-2-pyrrolecarboxaldehyde | 1.30 mmol, 0.20 g | CN1C(=CC(=C1)[N+](=O)[O-])C=O | C6H6N2O3
reactant | malonic acid | 6.5 mmol, 0.68 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | (E)-1-methyl-4-nitro-2-pyrroleacrylic acid | 0.23 g, 92% | CN1C(=CC(=C1)[N+](=O)[O-])/C=C/C(=O)O | C8H8N2O4
